;Spice netlist for an xor2 and a capacitor
simulator lang=spectre

include "model18.spi"
include "cell18.spi"

vgnd (gnd 0) vsource dc=0
vvdd (vdd 0) vsource dc=1.8

vpwl (XOR2_in 0) vsource type=pwl wave=[0n 0 1n 0 1.2n 1.8 4n 1.8 4.2n 0]

X1 (XOR2_in vdd XOR2_out vdd gnd) XOR2 wp=700n lp=200n wn=300n ln=200n wip=700n lip=200n win=300n lin=200n

R1 (XOR2_out 1) resistor r=1
C1 (1 0) capacitor c=100f

TransientAnalysis tran start=0 stop=10ns step=1ps
save XOR2_in XOR2_out
